US07015218B1
1-(4-Chlorophenyl)-N-{4-[4-(4-chlorophenyl)piperazin-1-yl]-3-cyanophenyl}-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic-acid (0.5 g) and 5-amino-2-[4-(4-chlorophenyl)piperazin-1-yl]benzonitrile (0.6 g), the title compound (0.5 g) was obtained, melting point: 265° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic-acid | 0.5 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9ClN2O2
reactant | 5-amino-2-[4-(4-chlorophenyl)piperazin-1-yl]benzonitrile | 0.6 g | NC=1C=CC(=C(C#N)C1)N1CCN(CC1)C1=CC=C(C=C1)Cl | C17H17ClN4
product | 1-(4-Chlorophenyl)-N-{4-[4-(4-chlorophenyl)piperazin-1-yl]-3-cyanophenyl}-5-methylpyrazole-4-carboxamide | 0.5 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCN(CC1)C1=CC=C(C=C1)Cl)C#N | C28H24Cl2N6O
